US07982047B2
Synthesis of 2-bromo-1-[2-chloro-4-(methylsulphonyl)phenyl]-3-(cyclopropyl)propane-1,3-dione
Under an inert atmosphere, bromine (0.24 g) is slowly added dropwise to a solution of (1-[2-chloro-4-(methylsulphonyl)phenyl]-3-(cyclopropyl)propan-1,3-dione (0.43 g) in 25 ml of dichloromethane cooled to 5° C., then the mixture is stirred overnight at room temperature.

reactant | bromine | 0.24 g | BrBr | Br2
reactant | 1-[2-chloro-4-(methylsulphonyl)phenyl]-3-(cyclopropyl)propan-1,3-dione | 0.43 g | ClC1=C(C=CC(=C1)S(=O)(=O)C)C(CC(=O)C1CC1)=O | C13H13ClO4S
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-bromo-1-[2-chloro-4-(methylsulphonyl)phenyl]-3-(cyclopropyl)propane-1,3-dione | BrC(C(=O)C1=C(C=C(C=C1)S(=O)(=O)C)Cl)C(=O)C1CC1 | C13H12BrClO4S
